US07265120B2
Under nitrogen atmosphere, a solution of Na2CO3 (220 mg) in water (1.6 ml) was added to a suspension of 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (200 mg), phenylboronic acid (158 mg) and tetrakis(triphenylphosphine)palladium (18 mg) in dioxane (6 ml) and the mixture was stirred at 100-105° C. for 2 hours. After addition of water (6 ml), a precipitate was collected by filtration and purified by column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (60:40 v/v) to give a solid. The solid was suspended in acetone and collected by filtration to give 6-(5-amino-3,6-diphenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (150 mg).

reactant | Na2CO3 | 220 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 200 mg | NC=1N=C(C(=NC1Br)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H16BrN5O
reactant | phenylboronic acid | 158 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | water | 1.6 ml | O | H2O
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
solvent | acetone | CC(=O)C | C3H6O
catalyst | tetrakis(triphenylphosphine)palladium | 18 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 6 ml | O | H2O
product | 6-(5-amino-3,6-diphenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 150 mg | NC=1N=C(C(=NC1C1=CC=CC=C1)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C23H21N5O
